US07842688B2
a) tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-(4-{2-[2-(2-methoxyphenyl)ethoxy]ethoxy}phenyl)piperidine-1-carboxylate
Analogously to Method G, 0.50 g of tert-butyl 4-(4-{2-[2-(2-Methoxyphenyl)ethoxy]ethoxy}phenyl)-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate and 0.27 g of N-[2-(2-hydroxyphenyl)ethyl]acetamide are reacted. The title compound is obtained as a colourless oil. Rf=0.45 (EtOAc); Rt=5.52.

reactant | tert-butyl 4-(4-{2-[2-(2-Methoxyphenyl)ethoxy]ethoxy}phenyl)-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate | 0.50 g | COC1=C(C=CC=C1)CCOCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C36H47NO9S
reactant | N-[2-(2-hydroxyphenyl)ethyl]acetamide | 0.27 g | OC1=C(C=CC=C1)CCNC(C)=O | C10H13NO2
product | tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-(4-{2-[2-(2-methoxyphenyl)ethoxy]ethoxy}phenyl)piperidine-1-carboxylate | C(C)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCOCCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C39H52N2O8
